US07655669B2
4-(4-Morpholinyl)-3-(trifluoromethyl)-benzonitrile
The title compound is prepared using an analogous method as described in Example 1.1, utilising 4-bromo-3-(trifluoromethyl)-benzonitrile and morpholine (Fluka, Buchs, Switzerland), with a reaction temperature of 95° C.

reactant | 4-bromo-3-(trifluoromethyl)-benzonitrile | BrC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3BrF3N
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-(4-Morpholinyl)-3-(trifluoromethyl)-benzonitrile | N1(CCOCC1)C1=C(C=C(C#N)C=C1)C(F)(F)F | C12H11F3N2O
